US09371320B2
B) 1-(2,6-difluorophenyl)-4-methoxy-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one
To a solution of N′-(2,6-difluorophenyl)-4-iodo-2-methoxynicotinohydrazide (1.32 g) in DMSO (20 mL) were added L-proline (75.0 mg) and potassium carbonate (901 mg) at room temperature. Copper(I) iodide (62.1 mg) was added thereto under nitrogen atmosphere at 60° C., and the mixture was stirred overnight at 60° C. The reaction mixture was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (278 mg).

reactant | N′-(2,6-difluorophenyl)-4-iodo-2-methoxynicotinohydrazide | 1.32 g | FC1=C(C(=CC=C1)F)NNC(C1=C(N=CC=C1I)OC)=O | C13H10F2IN3O2
reactant | L-proline | 75.0 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 901 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | Copper(I) iodide | 62.1 mg | [Cu]I
product | 1-(2,6-difluorophenyl)-4-methoxy-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one | 278 mg | FC1=C(C(=CC=C1)F)N1NC(C=2C(=NC=CC21)OC)=O | C13H9F2N3O2
